US04093812
Add a solution of 1.0 g of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid chloride in 50 ml of pyridine dropwise to a solution of 0.31 ml of phenyl hydrazine in 5 ml of pyridine and stir the resulting reaction mixture at room temperature for 4 hours. Pour the thus-produced solution onto ice and water and chromatograph on silica gel with benzene/ethanol (9:1) to obtain 3-(5-nitro-2-furyl)-1,N'-diphenylpyrazole-4-carbohydrazide.

reactant | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxylic acid chloride | 1.0 g | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)Cl)C1=CC=CC=C1 | C14H8ClN3O4
reactant | phenyl hydrazine | 0.31 ml | C1(=CC=CC=C1)NN | C6H8N2
reactant | water | O | H2O
reactant | benzene ethanol | C1=CC=CC=C1.C(C)O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-(5-nitro-2-furyl)-1,N'-diphenylpyrazole-4-carbohydrazide | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C(=O)NNC1=CC=CC=C1)C1=CC=CC=C1 | C20H15N5O4
